US09289430B2
4-(((2-(diethylamino)ethyl)(methyl)amino)methyl)benzoic acid
Into a 1000-mL round bottom flask, was placed a solution of N1,N1-diethyl-N2-methylethane-1,2-diamine (10 g, 69.23 mmol, 1.20 equiv, 90%) in N,N-dimethylformamide (500 mL), 4-(chloromethyl)benzoic acid (11.5 g, 67.65 mmol, 1.00 equiv), potassium carbonate (10 g, 71.94 mmol, 3.00 equiv), and potassium iodide (1.95 g, 11.75 mmol, 0.20 equiv). The resulting solution was stirred for 2 h at 90° C. in an oil bath. The solids were filtered out. The resulting mixture was concentrated under vacuum. The crude product (10 g) was purified by reverse phase chromatography eluting with a water/methanol gradient. This resulted in 5 g (27%) of 4-(((2-(diethylamino)ethyl)(methyl)amino)methyl)benzoic acid as a white solid. 1H-NMR (300 MHz, CDCl3, ppm): δ 8.00(d, J=8.4 Hz, 2H), 7.39(d, J=8.1 Hz, 2H), 3.68(s, 2H), 3.23-3.15(m, 6H), 2.91(m, 2H), 2.33(s, 3H), 1.33-1.27(m, 6H). MS (ES, m/z): 265 [M+H]+.

reactant | N1,N1-diethyl-N2-methylethane-1,2-diamine | 69.23 mmol, 10 g, 1.20 equiv | C(C)N(CCNC)CC | C7H18N2
reactant | 4-(chloromethyl)benzoic acid | 67.65 mmol, 11.5 g, 1.00 equiv | ClCC1=CC=C(C(=O)O)C=C1 | C8H7ClO2
reactant | potassium carbonate | 71.94 mmol, 10 g, 3.00 equiv | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 11.75 mmol, 1.95 g, 0.20 equiv | [I-].[K+]
solvent | N,N-dimethylformamide | 500 mL | CN(C=O)C | C3H7NO
product | 4-(((2-(diethylamino)ethyl)(methyl)amino)methyl)benzoic acid | C(C)N(CCN(C)CC1=CC=C(C(=O)O)C=C1)CC | C15H24N2O2
